US06387899B1
(S)—N-[8—Methyl-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-methylbenzamide
4—Methylbenzoic acid (22 mg, 0.16 mmol) and 1,1′-carbonyldiimidazole (27 mg, 0.17 mmol) were dissolved in dry N,N-dimethylformamide (2 mL) and stirred at 75° C. for 1 h. The reaction mixture was cooled to room temperature and a solution of (S)-3-amino-8-methyl-5-(methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (40 mg, 0.15 mmol) dissolved in dry N,N-dimethylformamide (4 mL) was added. The reaction mixture was stirred at room temperature for 4 days and the solvent was evaporated in vacuo. The crude material was partitioned between methylene chloride (40 mL) and water (10 mL). The organic phase was washed with water (10 mL) and brine (5 mL) and dried (MgSO4). The solvent was evaporated in vacuo giving 48 mg of a crude product. Purification by preparative TLC on silica using chloroform/ethanol (saturated with ammonia) (15:1) as the eluent afforded 23 mg (40% yield) of the title compound as a white solid: mp 191-192° C.; EIMS (70eV) m/z (relative intensity) 379 (100, M+); [α]21D−7° (c 0.10, chloroform).

reactant | 4—Methylbenzoic acid | 0.16 mmol, 22 mg | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | 1,1′-carbonyldiimidazole | 0.17 mmol, 27 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-3-amino-8-methyl-5-(methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 0.15 mmol, 40 mg | N[C@@H]1COC2=C(C1)C(=CC=C2C)N2C(CNCC2)C | C15H23N3O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (S)—N-[8—Methyl-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-methylbenzamide | 23 mg, 40% yield | CC1=CC=C(C=2C[C@@H](COC21)NC(C2=CC=C(C=C2)C)=O)N2CCN(CC2)C | C23H29N3O2
